US05633279
To a solution of (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2-methylbut-2-en-1-ol (4.6 g) in methylene chloride (100 ml) at 0° C. was added triphenylphosphine (3.64 g) then N-bromosuccinimide (2.48 g). After 15 minutes the solution was washed with 10% aqueous sodium bisulphite, water, aqueous sodium bicarbonate, then dried and evaporated. The residue was chromatographed on silica gel, eluting with 4:1 hexane: ethyl acetate, to give (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl) -2-methylbut-2-enyl bromide, mp 74°-75° C. (hexane).

reactant | (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2-methylbut-2-en-1-ol | 4.6 g | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/CO)\C | C19H26O7
reactant | triphenylphosphine | 3.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 2.48 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl) -2-methylbut-2-enyl bromide | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/CBr)\C | C19H25BrO6
